US07135502B1
A solution of N-acetyl colchicinol (0.35 g; 0.98 mmol), phenyl chloroformate (145 μl; 1.08 mmol) and triethylamine (150 μl; 1.08 mmol) in dichloromethane (20 ml) was stirred at ambient temperature for 1 hour. The mixture was washed with water and the organic phase evaporated. The residue was purified by flash chromatography, eluting with ethyl acetate/petroleum ether (80/20) to give N-[(5S)-3-phenoxycarbonyloxy-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide as a foam.

reactant | N-acetyl colchicinol | 0.98 mmol, 0.35 g | CC(=O)NC1CCC2=CC(=C(C(=C2C3=C1C=C(C=C3)O)OC)OC)OC | C20H23NO5
reactant | phenyl chloroformate | 1.08 mmol, 145 μl | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | 1.08 mmol, 150 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[(5S)-3-phenoxycarbonyloxy-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | Yield: 79% | O(C1=CC=CC=C1)C(=O)OC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C27H27NO7
